US05981500
To a solution of nicotinic acid hydrazide dihydrochloride (2 g) in water (10 ml) was added a solution of sodium nitrite (1.6 g) in water (10 ml), keeping the temperature below 20° C. Diethyl ether (50 ml) was then added and the mixture basified by the careful addition of solid sodium bicarbonate. The organic layer was separated, washed with water (20 ml), dried over anhydrous magnesium sulphate and evaporated to dryness under vacuum to give nicotinyl azide (1.1 g) m.pt. 54° C. This azide (1.1 g) was stirred in dry toluene (10 ml) and heated at 100° C. under a nitrogen atmosphere for 8 hr to give a solution containing 3-pyridyl isocyanate. A portion of this solution (1 ml) was reacted with 5-oximino-25-cyclohexyl-22,23-dihydroavermectin B1 monosaccharide (Example 5) (100 mg), in toluene (10 ml) at room temperature for 1 hr before pouring into a diethyl ether-water mixture (1:1, 30 ml). The organic layer was separated, dried over anhydrous magesium sulphate and evaporated to dryness under vacuum to give a residue (130 mg) which was purified by high pressure liquid chromatography on a Dynamax (trade mark) column (41.4×250 mm, 8 μm, ODS-silica, Rainin) eluting at 45 ml per minute with a methanol-water 85:15 mixture, changing to 87:13 after 15 mins. Appropriate fractions were combined and evaporated under vacuum to yield the title compound as a white powder (52 mg). Mass and NMR spectra were fully consistent with the proposed structure.

reactant | nicotinic acid hydrazide dihydrochloride | 2 g | Cl.Cl.C(C1=CN=CC=C1)(=O)NN
reactant | sodium nitrite | 1.6 g | N(=O)[O-].[Na+]
reactant | Diethyl ether | 50 ml | C(C)OCC | C4H10O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | 10 ml | O | H2O
solvent | water | 10 ml | O | H2O
product | nicotinyl azide | 1.1 g | C(C1=CN=CC=C1)N=[N+]=[N-] | C6H6N4
